US07354933B2
2.35 ml of concentrated sulfuric acid are added to a solution of 5 g of 2-ethylpyridine-4-carboxylic acid in 75 ml of ethanol. The reaction mixture is refluxed with stirring for about 64 hours and then concentrated to dryness under reduced pressure. The residue thus obtained is taken up in 500 ml of water and then extracted with 500 ml of dichloromethane. The organic phase is dried over magnesium sulfate, filtered and then concentrated to dryness under reduced pressure. 5.08 g of ethyl 2-ethylpyridine-4-carboxylate are thus obtained in the form of an oil.

reactant | sulfuric acid | 2.35 ml | S(O)(O)(=O)=O | H2O4S
reactant | 2-ethylpyridine-4-carboxylic acid | 5 g | C(C)C1=NC=CC(=C1)C(=O)O | C8H9NO2
reactant | ethanol | 75 ml | C(C)O | C2H6O
solvent | water | 500 ml | O | H2O
product | ethyl 2-ethylpyridine-4-carboxylate | 5.08 g | C(C)C1=NC=CC(=C1)C(=O)OCC | C10H13NO2
